US05756518
Synthesis of 7-[3-(7-chloro-2-quinolinylmethoxy)benzyloxy]-1,2,3,4-tetrahydroquinolin-2-one
A mixture of 0.326 g (2 mmol) of 7-hydroxy-1,2,3,4-tetrahydroquinolin-3-one, 0.609 g (5 mmol) of K2 CO3, 0.075 g (0.25 mmol) of tetra-n-butylammonium bromide, 40 ml of DMF and 0.636 g (2 mmol) of 3-(7-chloro-2-quinolinylmethoxy)benzyl chloride was stirred at room temperature for 3 days. Insoluble matter was removed and the solvent was then distilled off. The residue was subjected to chromatography on a silica gel column. Subsequent to elution with CHCl3, recrystallization was conducted from acetone, whereby 0.245 g of the title compound was obtained as pale yellow powder (yield: 27.6%).

reactant | 7-hydroxy-1,2,3,4-tetrahydroquinolin-3-one | 2 mmol, 0.326 g | OC1=CC=C2CC(CNC2=C1)=O | C9H9NO2
reactant | 3-(7-chloro-2-quinolinylmethoxy)benzyl chloride | 2 mmol, 0.636 g | ClC1=CC=C2C=CC(=NC2=C1)COC=1C=C(CCl)C=CC1 | C17H13Cl2NO
reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
catalyst | tetra-n-butylammonium bromide | 0.25 mmol, 0.075 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 7-[3-(7-chloro-2-quinolinylmethoxy)benzyloxy]-1,2,3,4-tetrahydroquinolin-2-one | 0.245 g | ClC1=CC=C2C=CC(=NC2=C1)COC=1C=C(COC2=CC=C3CCC(NC3=C2)=O)C=CC1 | C26H21ClN2O3
